US07674795B2
The procedure used in Example 6 is followed, but starting from 1.5 g of 4-[6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-9H-fluoren-9-one oxime (Z,E), obtained in the previous stage, and 229 mg of Raney nickel in 35 ml of ethanol and 35 ml of tetrahydrofuran for 48 hours at 60° C. under an initial hydrogen pressure of one bar. After filtration of the catalyst, concentration to dryness under reduced pressure and purification by formation of a paste in diisopropyl ether, in this way we obtained 1.3 g of 4-[6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-9H-fluoren-9(R,S)-ylamine, in the form of an orange powder, which is used as it is in the following stage, with the following characteristics:

reactant | 4-[6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-9H-fluoren-9-one oxime | 1.5 g | CN1CCN(CC1)C=1C=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)=NO)C1 | C25H23N5O
catalyst | Raney nickel | 229 mg | [Ni] | Ni
solvent | ethanol | 35 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | 4-[6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-9H-fluoren-9(R,S)-ylamine | 1.3 g | CN1CCN(CC1)C=1C=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)N)C1 | C25H25N5
